### PR TITLE
feat: lemmas for Bitvector division when denominator is zero

### PR DESCRIPTION
**Pull request by bollu**
These lemmas explain what happens when the denominator is zero with `udiv`, `umod`, `sdiv`, `smod`. A follow-up PR will show what happens with `smtUDiv` and `smtSMod`, since these need some more bitvector theory. 
These lemmas will be used by `bv_decide` for bitblasting.

The theorems `{sdiv, smod}_zero` are located after `neg` theory has been built for the purpose of writing terse proofs.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2034,11 +2043,30 @@ theorem neg_ne_iff_ne_neg {x y : BitVec w} : -x ≠ y ↔ x ≠ -y := by
...
+  · intro h
+    simp [h]
+
 theorem sub_eq_xor {a b : BitVec 1} : a - b = a ^^^ b := by
   have ha : a = 0 ∨ a = 1 := eq_zero_or_eq_one _
   have hb : b = 0 ∨ b = 1 := eq_zero_or_eq_one _
   rcases ha with h | h <;> (rcases hb with h' | h' <;> (simp [h, h']))
 
+theorem sdiv_zero_eq (x : BitVec n) : x.sdiv 0#n = 0#n := by
+  simp only [sdiv_eq, msb_zero]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2061]:
```suggestion
@[simp]
theorem sdiv_zero_eq {x : BitVec n} : x.sdiv 0#n = 0#n := by
  simp only [sdiv_eq, msb_zero]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2034,11 +2043,30 @@ theorem neg_ne_iff_ne_neg {x y : BitVec w} : -x ≠ y ↔ x ≠ -y := by
...
+  rcases x.msb with msb | msb <;> apply eq_of_toNat_eq <;> simp
+
+theorem smod_zero_eq (x : BitVec n) : x.smod 0#n = x := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2064]:
```suggestion

@[simp]
theorem smod_zero_eq {x : BitVec n} : x.smod 0#n = x := by
```

**Comment by tobiasgrosser** [comment]
I think you can also drop the `_eq` from the PR description.

**Comment by bollu** [comment]
@tobiasgrosser done, the names are terser now.

**Review by tobiasgrosser — APPROVED** [review]

**Comment by tobiasgrosser** [comment]
> The theorems {sdiv, smod}_zero are located after neg theory has been built for the purpose of writing terse proofs.

Given that neg proofs are unlikely to refer to sdiv/smod proofs, we could consider moving sdiv/smod after neg/sub. I guess @kim-em may have an opinion here.

**Comment by tobiasgrosser** [comment]
> > The theorems {sdiv, smod}_zero are located after neg theory has been built for the purpose of writing terse proofs.
> 
> Given that neg proofs are unlikely to refer to sdiv/smod proofs, we could consider moving sdiv/smod after neg/sub. I guess @kim-em may have an opinion here.

I implemented this in #5623.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -1351,6 +1351,11 @@ theorem toNat_udiv {x y : BitVec n} : (x.udiv y).toNat = x.toNat / y.toNat := by
   · rw [toNat_ofNat, Nat.mod_eq_of_lt]
     exact Nat.lt_of_le_of_lt (Nat.div_le_self ..) (by omega)
 
+@[simp]
+theorem udiv_zero {x : BitVec n} : x.udiv 0#n = 0#n := by
+  simp [udiv]
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean:1356]: non terminal simp

**Review by hargoniX — COMMENTED** [review]
Is `udiv` the decided simp nf of division on BitVec? For `<` we have `<` and `slt` while `udiv` seems to be `udiv` and `sdiv` instead of `/` and `sdiv`?

**Comment by bollu** [comment]
@hargoniX I sent a PR that establishes `/` and `%` as normal forms for `udiv` and `umod`: https://github.com/leanprover/lean4/pull/5645
